US05036079
4,5-Dimethyl-2-(4-methylphenyl)oxazole N-Oxide Hydrochloride
At 0°-5° C., dry HCl was bubble through a solution of p-tolualdehyde (125 g, 1.04 mol) and 3-oximino-2-butanone (95.6 g, 0.946 mol) in 350 ml of ethyl acetate. Title product was precipitated by dilution with ether and recovered by filtration with ether wash, 207 g; mp 198°-200° C. (dec).

reactant | HCl | Cl | ClH
reactant | p-tolualdehyde | 1.04 mol, 125 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | 3-oximino-2-butanone | 0.946 mol, 95.6 g | N(O)=C(C(C)=O)C | C4H7NO2
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
product | 4,5-Dimethyl-2-(4-methylphenyl)oxazole N-Oxide Hydrochloride | Cl.CC=1[N+](=C(OC1C)C1=CC=C(C=C1)C)[O-] | InChI=1S/C12H13NO2.ClH/c1-8-4-6-11(7-5-8)12-13(14)9(2)10(3)15-12;/h4-7H,1-3H3;1H
